US04101667
To 1.0g of sodium hydroxide dissolved in 15ml of diethylene glycol was added 1.0g of 9-cyano-3-fluoro-10,11-dihydrodibenzo[b,f]thiepin-11-one hydrazone and the resulting mixture was heated with stirring at 190°-200° C for 2 hours. After cooling, water was added to the mixture, which was extracted with benzene. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue, which was chromatographed over silica gel, and eluted with ethyl acetate-benzene (1:10), and there was obtained the crude product. Recrystallization from methanol afforded 102mg of 9-carboxy-3-fluoro-10,11-dihydrodibenzo[b,f]thiepin having a melting point of 209°-211° C.

reactant | sodium hydroxide | 1.0g | [OH-].[Na+]
reactant | 9-cyano-3-fluoro-10,11-dihydrodibenzo[b,f]thiepin-11-one hydrazone | 1.0g | C(#N)C1=CC=CC2=C1CC(C1=C(S2)C=C(C=C1)F)=NN | C15H10FN3S
reactant | water | O | H2O
solvent | diethylene glycol | 15ml | C(COCCO)O | C4H10O3
product | 9-carboxy-3-fluoro-10,11-dihydrodibenzo[b,f]thiepin | 102mg | C(=O)(O)C1=CC=CC2=C1CCC1=C(S2)C=C(C=C1)F | C15H11FO2S
